US04203899
To a solution of 34.6 g. of ethyl α-acetamido-β-oxo-γ-bromobutyrate in a mixture of 50 ml. of ethanol and 20 ml. of ether are added 18.9 g. of N-acetylthiourea and 15 ml. of pyridine. The mixture is heated under reflux for 4 hours, and condensed under reduced pressure. The condensate is extracted with ethyl acetate and the extract is washed with 5% aq. NaHCO3, then with water, and dried. The oily substance which is obtained from the extract by removal of the solvent is purified by silica gel chromatography to give ethyl α-acetamido-2-acetamidothiazol-4-ylacetate. 4.46 g. Melting point: 148.9°-150° C.

reactant | ethyl α-acetamido-β-oxo-γ-bromobutyrate | C(C)(=O)NC(C(=O)OCC)C(CBr)=O | C8H12BrNO4
reactant | ethanol | C(C)O | C2H6O
reactant | ether | CCOCC | C4H10O
reactant | N-acetylthiourea | C(C)(=O)NC(=S)N | C3H6N2OS
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | ethyl α-acetamido-2-acetamidothiazol-4-ylacetate | C(C)(=O)NC(C(=O)OCC)C=1N=C(SC1)NC(C)=O | C11H15N3O4S
